2131-03-15 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2131-3-14**] 08:47 AM
   - TTE: EF >55%, Well seated, normally functioning bioprosthetic aortic
   valve. Moderate mitral stenosis. Moderate pulmonary artery systolic
   hypertension. Symmetric left ventricular hypertrophy with preserved
   regional and global biventricular systolic function.
   -Restarted on metoprolol 12.5mg PO BID
   - Urology ([**Doctor First Name **] pager: [**Numeric Identifier 12089**]): HCT stable ~27, so no plan to take to OR
   tomorrow. Will re-asssess Thursday and plan for possible OR
   (cystoscopy) on Friday.
   - 2 episodes of clot obstructing CBI, able to flush and re-start
   - called out to HMED East
   Total of 10 units pRBCs transfused, last was morning of [**2131-3-14**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2131-3-14**] 07:54 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2131-3-14**] 07:54 AM
   Morphine Sulfate - [**2131-3-14**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2131-3-15**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 66 (62 - 88) bpm
   BP: 134/50(69) {95/30(45) - 153/83(91)} mmHg
   RR: 13 (13 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,955 mL
                                                                     68 mL
   PO:
                                                                    980 mL
             TF:
   IVF:
                                                                    100 mL
                                                                     68 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,955 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bibasilar crackles
   CV: Regular rate and rhythm, normal S1 + S2, III/VI holosystolic murmur
   RUSB. No rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley in place, pink urine in bag, clear/yellow urine in foley
   tubing; No suprapubic TTP
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   144 K/uL
   9.0 g/dL
   85 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.3 mEq/L
   24 mg/dL
   110 mEq/L
   139 mEq/L
   26.3 %
   7.1 K/uL
        [image002.jpg]
                             [**2131-3-12**]  11:52 PM
                             [**2131-3-13**]  03:23 AM
                             [**2131-3-13**]  02:00 PM
                             [**2131-3-13**]  02:20 PM
                             [**2131-3-13**]  09:15 PM
                             [**2131-3-14**]  04:04 AM
                             [**2131-3-14**]  01:38 PM
                             [**2131-3-14**]  08:16 PM
                             [**2131-3-15**]  04:18 AM
   WBC
   10.0
   8.7
   7.1
   Hct
   19
   22.8
   23.8
   23.9
   27.5
   27.8
   26.3
   Plt
   164
   131
   144
   Cr
   1.8
   1.4
   TropT
   0.02
   0.04
   TCO2
   27
   Glucose
   158
   88
   85
   Other labs: PT / PTT / INR:11.7/22.1/1.0, CK / CKMB /
   Troponin-T:115/6/0.04, Fibrinogen:182 mg/dL, Lactic Acid:1.6 mmol/L,
   Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   83y/o gentleman with a past medical history of aortic stenosis s/p
   prosthetic AVR, PAF on coumadin s/p TURP approximately 3 weeks ago who
   presented to the hospital with hematuria and was transferred to the ICU
   for hypotension in the setting of bleeding.
   .
   #. Hypotension: Most likely due to blood loss from persistent
   hematuria, however cardiac event is also a possibility given acute
   nature.  ECG changes not worrisome for ACS.  Pt responded to fluids.
   Sepsis is less likely in this patient who does not have fevers or
   source of infection.  Risk of bleeding outweighs risk of embolic event
   and so INR reversal was recommended and completed.  Other etiologies
   include medications as pt has been receiving morphine boluses but this
   does not seem to correlate with timing of event.  Was also on
   Phenazopyridine for bladder spasms.
   - follow HCT Q8-12 hours and coags daily
   - continue with pRBC transfusion prn with goal HCT > 25
   - will monitor for pulmonary edema given history of aortic stenosis
   with valve replacement
   .
   #. Hematuria: s/p TURP 3 weeks ago.  Had Rouche catheter and 3 way
   CBI.  Unclear why bleeding is occurring 3 weeks after procedure.  Also
   occurred in the setting of INR of 3.1.
   - monitor on telemetry
   - continue CBI currently @ 1500 ml/hour
   - f/u urology recs, ? cystoscopy on Friday
   - f/u HCT Q8-12hrs and monitor for worsening hematuria
   - holding home doses of aspirin and coumadin
   - active T&S
   .
   #. [**Last Name (un) **] - Creatinine now back to 1.8 (baseline) from a high of 2.2.  [**Month (only) 60**]
   be due to hypovolemia vs. obstruction.  Renal ultrasound does not show
   obstruction but does show blood in the bladder.
   - follow urine output closely
   - CBI as above
   - Trend Cr
   .
   #UTI:  positive UA in the setting of gross blood but culture with no
   growth. Discussed with urology, who favors antibiotic coverage at this
   time given recent instrumentation
   - continue ciprofloxacin, will discuss course of therapy with urology
   .
   # CAD
 Slight increase in troponin from 0.02 to 0.04.  Patient is
   asymptomatic without chest pain and with no EKG changes. Likely that
   renal function is contributing factor.  TTE without regional wall
   motion abnormalities.
   -hold aspirin and metoprolol for now, continue zocor
   - start beta blocker when blood pressure allows
   .
   # PAF - continue amiodarone, hold metoprolol for acute bleed
   - hold digoxin for rate control
   .
   # Hyperlipidemia - continue zocor
   .
   # FEN
 IVF boluses as needed, replete electrolytes, Cardiac/Hearth
   Healthy Diet.
   # Access - PIV  x 2, PICC
   # Code
 DNR/DNI, confirmed with patient at the time of transfer
   # Communication: Daughter [**Name (NI) 893**] [**Telephone/Fax (1) 12059**]
   # Dispo - pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-3-13**] 12:26 AM
   PICC Line - [**2131-3-13**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: